US05180742
Magnesium (1.2 g, 0.05 mole) was added to tetrahydrofuran (50 ml), and a solution of bromobenzene (8 g, 0.05 mole) in tetrahydrofuran (20 ml) was added dropwise to the mixture under stirring. After refluxing for 1 hour and cooling at -70° C., a solution of δ-valerolactone (6 g, 0.05 mole) in tetrahydrofuran (20 ml) was added dropwise to the solution. The reaction solution was stirred at -60° C. for 30 minutes, and its temperature was allowed to rise up to room temperature over the period of 1 hour. 2N hydrochloric acid and then ethyl acetate were added to the reaction solution to extract the product. The organic layer was washed with water, dried and concentrated under reduced pressure, and the residue was chromatographed on a silica gel column, followed by elution with isopropyl ether-ethyl acetate (1:1) to give 5-benzoylpentan -1-ol (5.5 g). This compound was dissolved in ethanol (50 ml), and after ice-cooling, sodium boron hydride (1.0 g) was added to the solution, followed by stirring for 1 hour. Water (50 ml) was added to the reaction solution, and the ethanol was removed under reduced pressure. The product was extracted with ethyl acetate, and the organic layer was washed with water, dried and concentrated under reduced pressure. The residue was dissolved in dichloromethane (50 ml), and pyridine (20 ml) and acetic anhydride (8 ml) were added to the solution, followed by allowing the mixture to stand at room temperature for 18 hours. Ether (100 ml) was added to the reaction solution, and the mixed solution was washed with water, 2N hydrochloric acid and water successively. The ether layer was dried and concentrated under reduced pressure to give 1-phenyl-1,6-diacetoxyhexane (6 g). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 13.

reactant | Magnesium | 0.05 mole, 1.2 g | [Mg] | Mg
reactant | bromobenzene | 0.05 mole, 8 g | BrC1=CC=CC=C1 | C6H5Br
reactant | δ-valerolactone | 0.05 mole, 6 g | C1(CCCCO1)=O | C5H8O2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-benzoylpentan -1-ol | 5.5 g | C(C1=CC=CC=C1)(=O)CCCCCO | C12H16O2
